US04855445
Step (4) Preparation of (Z)-1-Ethyl-8-(1-propenyl)-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid, Methyl Ester
A mixture of 1-ethyl-8-(1-propynyl)-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid, methyl ester (155 mg, 0.5 mmol), Lindlar catalyst (15 mg), and methanol (10 mL) was charged with 1 atmosphere of hydrogen and allowed to stir at room temperature overnight. The catalyst was then removed by filtration through a celite plug, and the filtrate concentrated to give 170 mg of the crude product. This material was purified by flash chromatography (10% ethyl acetate/hexane, silica gel) to give the pure title compound as yellow oil (70 mg).

reactant | 1-ethyl-8-(1-propynyl)-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid, methyl ester | 0.5 mmol, 155 mg | C(C)C1(OCCC2=C1NC1=C(C=CC=C21)C#CC)CC(=O)OC | C19H21NO3
reactant | hydrogen | [H][H] | H2
catalyst | Lindlar catalyst | 15 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol | 10 mL | CO | CH4O
product | (Z)-1-Ethyl-8-(1-propenyl)-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid, Methyl Ester | 70 mg | C(C)C1(OCCC2=C1NC1=C(C=CC=C21)\C=C/C)CC(=O)OC | C19H23NO3
